US09212182B2
To a solution of perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (15.0 g, 25.24 mmol) and pyrimidin-2-amine (4.8 g, 50.48 mmol, Alfa Aesar) in THF (300 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 50.5 mL, 50.5 mmol, Aldrich) at 78° C. The reaction mixture was slowly warmed to room temperature and stirred for 1 h. The reaction mixture was quenched with 1.5 N HCl (300 mL) and extracted with ethyl acetate (2×300 mL). The combined organic layers were washed with 1.5N HCl (200 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to get the crude product which was purified by column chromatography (Silica gel; 60-120 mesh, eluent: 3-5% Methanol in DCM) to obtain 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-N-2-pyrimidinyl-1,2-dihydro-6-quinolinesulfonamide (9.6 g, 75.3%) as off white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.81 (s, 1H), 8.56-8.42 (m, 3H), 8.26 (d, J=9.6 Hz, 1H), 7.95 (dd, J=8.9, 2.1 Hz, 1H), 7.66 (d, J=6.2 Hz, 1H), 7.61 (d, J=8.6 Hz, 1H), 7.05 (s, 1H), 6.79 (dd, J=16.1, 9.3 Hz, 2H), 3.68 (s, 3H); LCMS (ESI) m/z 505.2 (M+H)+.

reactant | perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 25.24 mmol, 15.0 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H10BrF6NO5S
reactant | pyrimidin-2-amine | 50.48 mmol, 4.8 g | N1=C(N=CC=C1)N | C4H5N3
reactant | lithium bis(trimethylsilyl)amide | 50.5 mmol, 1.0 M, 50.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-N-2-pyrimidinyl-1,2-dihydro-6-quinolinesulfonamide | 9.6 g, 75.3% | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NC=CC=N1)=O)OC | C20H14BrFN4O4S
